US07981903B2
6-(methyloxy)-2-(1-methylpropyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline (0.23 g, 0.87 mmol) was dissolved in ethyl acetate (5 mL), treated with 10% palladium on carbon (50 mg, Aldrich), and then diluted with methanol (10 mL). The mixture was stirred under 60 psi of hydrogen pressure for 16 h in a Fischer-Porter apparatus. The pressure was released, the reaction vessel evacuated, and back-filled with nitrogen twice. The mixture was filtered through celite and the filtrate was concentrated to provide 6-(methyloxy)-2-(1-methylpropyl)-1,2,3,4-tetrahydro-7-isoquinolinamine (196 mg, 96%). 1H NMR (400 MHz, CDCl3) δ ppm 0.90 (t, J=7.4 Hz, 3 H), 1.02 (d, J=6.6 Hz, 3 H), 1.28-1.40 (m, 1 H), 1.59-1.69 (m, 1 H), 2.56-2.75 (m, 5 H), 3.48-3.67 (m, 4 H), 3.77 (s, 3 H), 6.35 (s, 1 H), 6.47 (s, 1 H).

reactant | 6-(methyloxy)-2-(1-methylpropyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 0.87 mmol, 0.23 g | COC=1C=C2CCN(CC2=CC1[N+](=O)[O-])C(CC)C | C14H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 6-(methyloxy)-2-(1-methylpropyl)-1,2,3,4-tetrahydro-7-isoquinolinamine | 196 mg, 96% | COC=1C=C2CCN(CC2=CC1N)C(CC)C | C14H22N2O
